US08030500B2
1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 11i in 35% yield, starting from of 4-bromo-2-(trifluoromethyl)pyridine (0.159 g, 0.71 mmol) and N-((3-bromo-4-fluorophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (0.300 g, 0.71 mmol);

reactant | 4-bromo-2-(trifluoromethyl)pyridine | 0.71 mmol, 0.159 g | BrC1=CC(=NC=C1)C(F)(F)F | C6H3BrF3N
reactant | N-((3-bromo-4-fluorophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 0.71 mmol, 0.300 g | BrC=1C=C(C=CC1F)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H15BrF2N2OS
product | 1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 35% yield | BrC=1C=C(C=CC1F)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C20H11BrF5N3
